US04377580
A mixture of 4,6-diaminoquinazoline hydrochloride (12 g) and tripropylamine (31.7 g) in dry pyridine (120 ml) was stirred in an ice-bath for 1 hour. Cyclohexanecarbonyl chloride (12.1 g) was added dropwise during 4 hours and 20 minutes to the mixture at 70° C. The mixture was stirred for additional 1 hour at 5° C. Crushed ice was added to the reaction mixture. The mixture was stirred for 1 hour and concentrated under reduced pressure. After addition of water, the mixture was adjusted to pH 8 with sodium hydrogen carbonate to give precipitates which were separated by filtration, washed with water and dried. The precipitates were dissolved in a mixture of chloroform and methanol under heating. Insoluble materials were removed by filtration. The filtrate was concentrated under reduced pressure to give crystalline 4-amino-6-cyclohexanecarboxamidoquinazoline (9.25 g).

reactant | 4,6-diaminoquinazoline hydrochloride | 12 g | Cl.NC1=NC=NC2=CC=C(C=C12)N
reactant | tripropylamine | 31.7 g | C(CC)N(CCC)CCC | C9H21N
reactant | Cyclohexanecarbonyl chloride | 12.1 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 4-amino-6-cyclohexanecarboxamidoquinazoline | 9.25 g | NC1=NC=NC2=CC=C(C=C12)NC(=O)C1CCCCC1 | C15H18N4O
